US04740513
6-(4-Cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone
n-Butyllithium (17.5 cm3 of a 1.5M solution in n-hexane) was added dropwise to a stirred solution of 6-(5-chloro-4-cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone (3.57 g) in tetrahydrofuran (THF) (100 cm3) at -70° under nitrogen. After 15 minutes saturated aqueous ammonium chloride solution (20 cm3) was added and the mixture was warmed to room temperature over 1 hour. The mixture was then poured into water (50 cm3), extracted with ethyl acetate (4×150 cm3), and the combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]). Elution with methanol:dichloromethane, 1:19 by volume, followed by combination and evaporation of the appropriate fractions, gave a solid which was boiled with ethyl acetate/methanol, then filtered and dried to afford the title compound, (0.71 g), which was shown spectroscopically to be identical to the product of Preparation 2.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 6-(5-chloro-4-cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 3.57 g | ClC1=C(N=C(N1C=1C=C2C=CC(NC2=C(C1)C)=O)C)C#N | C15H11ClN4O
reactant | ammonium chloride | 20 cm3 | [Cl-].[NH4+]
reactant | water | 50 cm3 | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 6-(4-Cyano-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 0.71 g | C(#N)C=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C15H12N4O
